************************************************************************
* auCdl Netlist:
* 
* Library Name:  DETFF
* Top Cell Name: S_TSPC_DET
* View Name:     schematic
* Netlisted on:  May  9 07:12:04 2026
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: DETFF
* Cell Name:    S_TSPC_DET
* View Name:    schematic
************************************************************************

.SUBCKT S_TSPC_DET D Qb clk gnd vdd
*.PININFO D:I clk:I Qb:O gnd:B vdd:B
MNM24 DBN D gnd gnd g45n1svt m=1 l=45n w=300n
MNM23 net90 D gnd gnd g45n1svt m=1 l=45n w=300n
MNM22 DBP clk net90 gnd g45n1svt m=1 l=45n w=300n
MNM21 net84 RH gnd gnd g45n1svt m=1 l=45n w=300n
MNM20 net6 clk net84 gnd g45n1svt m=1 l=45n w=300n
MNM19 net6 RL gnd gnd g45n1svt m=1 l=45n w=300n
MNM17 RL clk gnd gnd g45n1svt m=1 l=45n w=300n
MNM16 SNP RL gnd gnd g45n1svt m=1 l=45n w=300n
MNM15 SNN clk net31 gnd g45n1svt m=1 l=45n w=300n
MNM14 SNN DBN gnd gnd g45n1svt m=1 l=45n w=300n
MNM13 net36 DBP gnd gnd g45n1svt m=1 l=45n w=300n
MNM12 SNP clk net36 gnd g45n1svt m=1 l=45n w=300n
MNM11 net31 net3 gnd gnd g45n1svt m=1 l=45n w=300n
MNM4 DBN clk net4 gnd g45n1svt m=1 l=45n w=300n
MNM3 net3 SNN gnd gnd g45n1svt m=1 l=45n w=300n
MNM18 RH clk net3 gnd g45n1svt m=1 l=45n w=300n
MNM2 RL SNP gnd gnd g45n1svt m=1 l=45n w=300n
MNM25 Qb net6 gnd gnd g45n1svt m=1 l=45n w=300n
MNM1 net4 SNN gnd gnd g45n1svt m=1 l=45n w=300n
MPM27 Qb net6 vdd vdd g45p1svt m=1 l=45n w=600n
MPM26 SNN RH vdd vdd g45p1svt m=1 l=45n w=600n
MPM25 DBN clk net99 vdd g45p1svt m=1 l=45n w=600n
MPM24 net99 D vdd vdd g45p1svt m=1 l=45n w=600n
MPM23 DBP D vdd vdd g45p1svt m=1 l=45n w=600n
MPM22 net6 RH vdd vdd g45p1svt m=1 l=45n w=600n
MPM21 net70 RL vdd vdd g45p1svt m=1 l=45n w=600n
MPM20 net6 clk net70 vdd g45p1svt m=1 l=45n w=600n
MPM18 RH clk vdd vdd g45p1svt m=1 l=45n w=600n
MPM17 SNP clk net42 vdd g45p1svt m=1 l=45n w=600n
MPM16 SNN clk net48 vdd g45p1svt m=1 l=45n w=600n
MPM15 net48 DBN vdd vdd g45p1svt m=1 l=45n w=600n
MPM14 net42 net19 vdd vdd g45p1svt m=1 l=45n w=600n
MPM13 SNP DBP vdd vdd g45p1svt m=1 l=45n w=600n
MPM6 DBP clk net14 vdd g45p1svt m=1 l=45n w=600n
MPM4 RH SNN vdd vdd g45p1svt m=1 l=45n w=600n
MPM3 net14 SNP vdd vdd g45p1svt m=1 l=45n w=600n
MPM2 net19 SNP vdd vdd g45p1svt m=1 l=45n w=600n
MPM19 RL clk net19 vdd g45p1svt m=1 l=45n w=600n
.ENDS

